US07915281B2
N-Hydroxybenzenecarboximidoyl chloride (prepared as described in Part A of Example 2, 1.72 g, 10.5 mmol) was added to a solution of 4-chloro-2-(ethoxymethyl)-1-prop-2-ynyl-1H-imidazo[4,5-c]quinoline (3.00 g, 10.0 mmol) and triethylamine (1.70 mL, 12.0 mmol) in dichloromethane (40 mL). The solution was heated at reflux under a nitrogen atmosphere for 3.5 hours and additional N-hydroxybenzenecarboximidoyl chloride (0.1 g) was added. The solution was heated at reflux for one hour more, then was allowed to cool to room temperature and was diluted with dichloromethane. The solution was transferred to a separatory funnel and was washed with water and brine, dried over sodium sulfate, filtered, and concentrated. The crude product was purified by flash chromatography (silica gel, gradient elution from 4:1 to 3:2 hexanes/ethyl acetate) to provide pure 4-chloro-2-(ethoxymethyl)-1-[(3-phenylisoxazol-5-yl)methyl]-1H-imidazo[4,5-c]quinoline (1.48 g).

reactant | N-Hydroxybenzenecarboximidoyl chloride | ON=C(C1=CC=CC=C1)Cl | C7H6ClNO
reactant | 4-chloro-2-(ethoxymethyl)-1-prop-2-ynyl-1H-imidazo[4,5-c]quinoline | 10.0 mmol, 3.00 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC#C)COCC | C16H14ClN3O
reactant | triethylamine | 12.0 mmol, 1.70 mL | C(C)N(CC)CC | C6H15N
reactant | N-hydroxybenzenecarboximidoyl chloride | 0.1 g | ON=C(C1=CC=CC=C1)Cl | C7H6ClNO
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-chloro-2-(ethoxymethyl)-1-[(3-phenylisoxazol-5-yl)methyl]-1H-imidazo[4,5-c]quinoline | 1.48 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC2=CC(=NO2)C2=CC=CC=C2)COCC | C23H19ClN4O2
